US06482827B1
A solution of N-(tert-butoxycarbonyl)-L-aspartic acid 1-benzyl ester (1 g) and piperidine (0.32 mL) in acetonitrile (15 mL) was allowed to react with N-methylmorpholine (0.42 mL) and TBTU (1.2 g) for 6 hr at room temperature. The solvent was removed and the residue, dissolved in EtOAc, was sequentially washed with 2% aqueous hydrochloric acid, saturated aq. NaHCO3 and brine. After drying (Na2SO4) and rotoevaporation, the resulting yellowish oil was purified by flash chromatography over silica to obtain N-(tert-butoxycarbonyl)-L-aspartic acid 1-benzyl ester-4-piperidinamide (900 mg) as a colorless oil.

reactant | N-(tert-butoxycarbonyl)-L-aspartic acid 1-benzyl ester | 1 g | C(C1=CC=CC=C1)OC([C@@H](NC(=O)OC(C)(C)C)CC(=O)O)=O | C16H21NO6
reactant | piperidine | 0.32 mL | N1CCCCC1 | C5H11N
reactant | N-methylmorpholine | 0.42 mL | CN1CCOCC1 | C5H11NO
reactant | TBTU | 1.2 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | N-(tert-butoxycarbonyl)-L-aspartic acid 1-benzyl ester 4-piperidinamide | 900 mg | C(C1=CC=CC=C1)OC([C@@H](NC(=O)OC(C)(C)C)CC(=O)O)=O.N1CCC(CC1)C(=O)N | InChI=1S/C16H21NO6.C6H12N2O/c1-16(2,3)23-15(21)17-12(9-13(18)19)14(20)22-10-11-7-5-4-6-8-11;7-6(9)5-1-3-8-4-2-5/h4-8,12H,9-10H2,1-3H3,(H,17,21)(H,18,19);5,8H,1-4H2,(H2,7,9)/t12-;/m0./s1
